US07662811B2
Step 2: Preparation of N-[2-(4-hydroxymethyl-phenyl)-ethyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide:
A mixture of [3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetic acid (620 mg, 2.0 mmol), EDC (Aldrich, 575 mg, 3.0 mmol), HOBt (Aldrich, 270 mg, 2.0 mmol), and [4-(2-amino-ethyl)-phenyl]-methanol (362 mg, 2.4 mmol) was added CH2Cl2 (15 mL) and DMF (2 mL). The reaction mixture was stirred at room temperature overnight and diluted with CH2Cl2 (80 mL). The organic phase was washed with saturated NaHCO3, and brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude was purified by silica gel chomatography (6%-10% MeOH—CH2Cl2) to afford the title compound. MS (ESI): 444 (M+H)+.

reactant | [3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetic acid | 2.0 mmol, 620 mg | O=C1C(N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)O | C13H14N2O5S
reactant | EDC | 3.0 mmol, 575 mg
reactant | HOBt | 2.0 mmol, 270 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | [4-(2-amino-ethyl)-phenyl]-methanol | 2.4 mmol, 362 mg | NCCC1=CC=C(C=C1)CO | C9H13NO
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[2-(4-hydroxymethyl-phenyl)-ethyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide | OCC1=CC=C(C=C1)CCNC(CC1N(C=CNC1=O)S(=O)(=O)C1=CC=C(C=C1)C)=O | C22H25N3O5S
